US04983596
A solution of (2S,4R)-2-(carboxymethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (5.20 g) in allyl alcohol (52 ml) was refluxed in the presence of sulfuric acid (0.5 ml) for 5 hours. After cooling, triethylamine (3.14 ml) was added to the mixture. The mixture was concentrated under reduced pressure to give a syrup. The syrup was dissolved in ethyl acetate (100 ml), washed in turn with water (100 ml) and brine (100 ml), dried over magnesium sulfate, and concentrated under reduced pressure to give (2S,4R)-2-(allyloxycarbonylmethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (6.05 g).

reactant | (2S,4R)-2-(carboxymethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 5.20 g | C(=O)(O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C16H20N2O10S
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | triethylamine | 3.14 ml | C(C)N(CC)CC | C6H15N
reactant | allyl alcohol | 52 ml | C(C=C)O | C3H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-2-(allyloxycarbonylmethyloxymethyl)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 6.05 g | C(C=C)OC(=O)COC[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C19H24N2O10S
